US06150385
Preparation of tert-Butyl 4-(5-amino-1,3,4-thiadiazol-2-yl)tetrahydro-1(2H)-pyrazinecarboxylate.
A mixture of 5-bromo-1,3,4-thiadiazol-2-ylamine (9.27 g), Boc-piperazine (11.51 g), and K2HPO4 (13.4 g) in 30 ml of DMF is heated at 100° C. under argon for four hours, then cooled and added to 100 g of ice. The mixture is extracted with ethyl acetate, and the organic phase washed twice with water and dried (MgSO4). Following removal of the solvent under reduced pressure, the residue is flash chromatographed on silica using 4% methanol in dichloromethane to afford 8.32 g of the title compound as a solid. Recrystallization from 240 ml of 1:1 acetonitrile-toluene provides 6.65 g of solid.

reactant | 5-bromo-1,3,4-thiadiazol-2-ylamine | 9.27 g | BrC1=NN=C(S1)N | C2H2BrN3S
reactant | Boc-piperazine | 11.51 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | K2HPO4 | 13.4 g | OP(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(5-amino-1,3,4-thiadiazol-2-yl)tetrahydro-1(2H)-pyrazinecarboxylate | 8.32 g | NC1=NN=C(S1)N1CCN(CC1)C(=O)OC(C)(C)C | C11H19N5O2S
